US05212187
N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N"-[2-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]ethyl]guanidine
Preparation is effected analogously to Example 1, using 0.53 g (1.7 mmol) of N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,2-ethanediamine and the equimolar amount of N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a viscous oil which crystallises from absolute ether at -20° C. and is recrystallised from ethanol/ether; MS (+FAB method): m/z (rel. int. [%])=596 ([M+H]+, 1), 121 (100); IR (KBr): 2163 cm-1 (C≡N); m.p.: 56°-58° C. (ethanol/ether).

reactant | N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,2-ethanediamine | 1.7 mmol, 0.53 g | COC1=CC=C(CN(C2=NC=CC=C2)CCN(CCN)C)C=C1 | C18H26N4O
reactant | N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea | C(#N)NC(OC1=CC=CC=C1)=NCCSCC=1N=C(SC1)NC(=N)N | C15H17N7OS2
product | N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-N"-[2-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]ethyl]guanidine | C(#N)NC(=NCCN(C)CCN(C1=NC=CC=C1)CC1=CC=C(C=C1)OC)NCCSCC=1N=C(SC1)NC(=N)N | C27H37N11OS2
